US05843983
17(a) (2R,4R)-2-{2-[5-Chloro-2-(2-phenylethyl)phenoxy]ethyl}-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine
680 mg of 5-chloro-2-(2-phenylethyl)phenol (prepared as described in Preparation 9) were dissolved in 10 ml of N,N-dimethylacetamide, allowed to react with 360 mg of potassium t-butoxide and 1000 mg of (2S,4R)-2-(2-chloroethyl)-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine and extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1 .38 g (yield 91%) of the title compound as an oily substance.

reactant | 5-chloro-2-(2-phenylethyl)phenol | 680 mg | ClC=1C=CC(=C(C1)O)CCC1=CC=CC=C1 | C14H13ClO
reactant | potassium t-butoxide | 360 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-2-(2-chloroethyl)-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine | 1000 mg | ClCC[C@H]1N(C[C@@H](C1)OC(N(C)C)=O)C(=O)OCCCCCCCC | C18H33ClN2O4
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-2-{2-[5-Chloro-2-(2-phenylethyl)phenoxy]ethyl}-4-dimethylcarbamoyloxy-1-octyloxycarbonylpyrrolidine | ClC=1C=CC(=C(OCC[C@H]2N(C[C@@H](C2)OC(N(C)C)=O)C(=O)OCCCCCCCC)C1)CCC1=CC=CC=C1 | C32H45ClN2O5
